US07919519B2
To a solution of benzofuran-5-yl(phenyl)methanone (2.45 g, 11.0 mmol), glacial acetic acid (1.27 mL, 22.0 mmol) and 1,2-ethanedithiol (1.39 mL, 16.5 mmol) in 30 mL DCM at ambient temperature was added boron trifluoride diethyletherate (1.38 mL, 11.0 mmol). The reaction was allowed to stir overnight, and was quenched by the addition of 1N NaOH. The aq. layer was extracted 1×DCM, and the combined organics were dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography, ISCO, 0-20% EtOAc/hexanes provided 5-(2-phenyl-1,3-dithiolan-2-yl)benzofuran as a clear/colorless oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.99 (d, J=2.0 Hz, 1H), 7.84 (d, J=2.0 Hz, 1H), 7.48-7.57 (m, 3H), 7.38-7.45 (m, 1H), 7.29-7.36 (m, 2H), 7.24 (t, J=7.3 Hz, 1H), 6.96 (d, J=2.0 Hz, 1H) 3.43 (s, 4H).

reactant | benzofuran-5-yl(phenyl)methanone | 11.0 mmol, 2.45 g | O1C=CC2=C1C=CC(=C2)C(=O)C2=CC=CC=C2 | C15H10O2
reactant | acetic acid | 22.0 mmol, 1.27 mL | C(C)(=O)O | C2H4O2
reactant | 1,2-ethanedithiol | 16.5 mmol, 1.39 mL | C(CS)S | C2H6S2
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-phenyl-1,3-dithiolan-2-yl)benzofuran | C1(=CC=CC=C1)C1(SCCS1)C=1C=CC2=C(C=CO2)C1 | C17H14OS2
